US05952362
A solution of NaN(TMS)2 (1M) in THF (11 mmol, 11 ml) was added dropwise to a -78° C. solution of 6-carbomethoxyindole (876 mg, 5 mmol, prepared according to the procedure of Batcho, et al., Org. Synth. Coll. 7:34) in dry THF (10 ml). After stirring for 30 min, MeSO2Cl (1.47 mL) (Me=CH3) was added. The mixture was allowed to stir overnight then poured onto 100 ml of water. The mixture was extracted with CH2Cl2 (2×75 ml). The extracts were washed with brine, dried (Na2SO4), and the solvent was removed by rotary evaporation to give a light brown solid. The solid was purified by flash column chromatography (silica gel, 20% ethyl acetate/hexane) to give 510 mg of N-methanesulfonyl-6-carbomethoxyindole.

reactant | NaN(TMS)2 | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 6-carbomethoxyindole | C(=O)(OC)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | MeSO2Cl | 1.47 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 100 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 11 mmol, 11 ml | C1CCOC1 | C4H8O
product | N-methanesulfonyl-6-carbomethoxyindole | 510 mg | CS(=O)(=O)N1C=CC2=CC=C(C=C12)C(=O)OC | C11H11NO4S
